US05091387
2-(1H-indene-1-yl)acetaldoxime (50 mg, 0.29 mmol) was dissolved in methanol (15 ml) and treated with sodium cyanoborohydride (34 mg, 0.54 mmol). Methyl orange indicator (ca 1 mg) was added, and the pH of the mixture adjusted by addition of 1:1 conc. HCl:MeOH to maintain the indicator color slightly to the red side of the turning point. After ca 1 ml of the acid mixture had been added, the indicator remained red. The reaction was made basic with conc. NH4OH, and water was added. The mixture was extracted with ether and the ether layer was dried over sodium sulfate, filtered, and evaporated to dryness in vacuo to provide N-(2-(1H-indene-1-yl)-ethyl)hydroxylamine.

reactant | 2-(1H-indene-1-yl)acetaldoxime | 0.29 mmol, 50 mg | C1(C=CC2=CC=CC=C12)CC=NO | C11H11NO
reactant | sodium cyanoborohydride | 0.54 mmol, 34 mg | C(#N)[BH3-].[Na+]
reactant | Methyl orange | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | HCl | Cl | ClH
reactant | NH4OH | [NH4+].[OH-]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | O | H2O
product | N-(2-(1H-indene-1-yl)-ethyl)hydroxylamine | C1(C=CC2=CC=CC=C12)CCNO | C11H13NO
